US05858995
To a mixture of 2-methyl-7-nitrobenzo[b]furan (177 mg) and aluminum chloride (200 mg) in dichloromethane (5 ml) was added dropwise propionyl chloride (0.18 ml). The mixture was stirred at ambient temperature for 3 hours and poured into a mixture of ice and 1N-hydrochloric acid. The separated oil was extracted with dichloromethane and the extract was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was crystallized from diethyl ether to give 2-methyl-7-nitro-3-propionylbenzo[b]furan (215 mg).

reactant | 2-methyl-7-nitrobenzo[b]furan | 177 mg | CC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C9H7NO3
reactant | aluminum chloride | 200 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 0.18 ml | C(CC)(=O)Cl | C3H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-methyl-7-nitro-3-propionylbenzo[b]furan | 215 mg | CC1=C(C2=C(O1)C(=CC=C2)[N+](=O)[O-])C(CC)=O | C12H11NO4
